US07129238B2
In analogy to example 15.5, (RS)-N-(4-cyano-benzyl)-2-(2,6-difluoro-4-furan-2-yl-phenyl)-2-ethoxy-acetamide was reacted with hydroxylamine hydrochloride to give (RS)-2-(2,6-difluoro-4-furan-2-yl-phenyl)-2-ethoxy-N-[4-(N-hydroxycarbamimidoyl)-benzyl]-acetamide. Colorless solid. MS 430.0 ([M+H]+)

reactant | (RS)-N-(4-cyano-benzyl)-2-(2,6-difluoro-4-furan-2-yl-phenyl)-2-ethoxy-acetamide | C(#N)C1=CC=C(CNC(C(OCC)C2=C(C=C(C=C2F)C=2OC=CC2)F)=O)C=C1 | C22H18F2N2O3
reactant | hydroxylamine hydrochloride | Cl.NO
product | (RS)-2-(2,6-difluoro-4-furan-2-yl-phenyl)-2-ethoxy-N-[4-(N-hydroxycarbamimidoyl)-benzyl]-acetamide | FC1=C(C(=CC(=C1)C=1OC=CC1)F)C(C(=O)NCC1=CC=C(C=C1)C(NO)=N)OCC | C22H21F2N3O4
